US05714438
To a solution of 28.2 g of 5-acetyl-4-methylpyrimidine in 250 ml of a chilled 1:1 mixture of benzene and DMF was added 33.6 g of tert-butoxy-bis(dimethylamino)methane dropwise. The solution was stirred overnight at room temperature. The solvents were evaporated in vacuo to yield 36.2 g of 3-dimethylamino-1-(4-methylpyrimidin-5-yl)-2-propen-1-one as a brick-red solid.

reactant | 5-acetyl-4-methylpyrimidine | 28.2 g | C(C)(=O)C=1C(=NC=NC1)C | C7H8N2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | tert-butoxy-bis(dimethylamino)methane | 33.6 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-dimethylamino-1-(4-methylpyrimidin-5-yl)-2-propen-1-one | 36.2 g | CN(C=CC(=O)C=1C(=NC=NC1)C)C | C10H13N3O
